US06897231B2
SYNTHESIS OF N-AMINO[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]CARBOXAMIDE
To a flask containing N-[(tert-butoxy)carbonylamino][3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide (230 mg, 0.62 mmol) was added 4 N HCl in dioxane (6 mL). The reaction was allowed to stir for four hours. The reaction was treated with 10% sodium hydroxide solution to make the reaction slightly basic. The solvent was removed and the reaction was diluted with water and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and concentrated to yield the title compound (153 mg, 91.6% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 9.9 (s, 1H), 8.55 (s, 1H), 8.1 (m, 2H), 7.9 (d, 1H), 7.65 (d, 1H), 7.4 (t, 2H), 4.5 (bs, 1H), 3.6 (s, 1H), ES-MS m/z 271 [M+H]+.

reactant | N-[(tert-butoxy)carbonylamino][3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide | 0.62 mmol, 230 mg | C(C)(C)(C)OC(=O)NNC(=O)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C19H19FN4O3
reactant | HCl | 4 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-AMINO[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]CARBOXAMIDE | 153 mg, 91.6% yield | NNC(=O)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C14H11FN4O
